US07915258B2
A) [4-[[ethyl(propyl)amino]methyl]phenyl]methanol
A mixture of 5 g of [4-(chloromethyl)phenyl]methanol, 5.56 g of N-ethylpropan-1-amine, 5.29 g of potassium iodide and 4.41 g of K2CO3 in 200 ml of acetonitrile is left to stir at AT for 48 hours. The reaction mixture is concentrated under vacuum, the residue is taken up with water, the mixture is extracted with DCM, the organic phase is dried over Na2SO4, and the solvent is evaporated off under vacuum. 3.5 g of the expected compound are obtained.

reactant | [4-(chloromethyl)phenyl]methanol | 5 g | ClCC1=CC=C(C=C1)CO | C8H9ClO
reactant | N-ethylpropan-1-amine | 5.56 g | C(C)NCCC | C5H13N
reactant | potassium iodide | 5.29 g | [I-].[K+]
reactant | K2CO3 | 4.41 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | [4-[[ethyl(propyl)amino]methyl]phenyl]methanol | 3.5 g | C(C)N(CCC)CC1=CC=C(C=C1)CO | C13H21NO
